US08802864B2
a) N-(4-bromo-2-chlorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide
To a solution of 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide (700 mg, 3.31 mmol) in dry dichloromethane (15 mL) was added 4-bromo-2-chloro-1-isocyanatobenzene (770 mg, 3.31 mmol). The reaction was stirred overnight, diluted with hexane (15 mL), and the precipitate collected and washed with hexane to provide the title compound (1.3 g, 2.93 mmol, 88% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.85 (br. s, 1H), 8.82 (br. s, 1H), 8.50-8.23 (m, 1H), 8.05 (dd, J=5.3, 8.8 Hz, 1H), 7.72 (d, J=1.8 Hz, 1H), 7.49 (d, J=8.8 Hz, 1H), 3.81 (dd, J=7.6, 9.9 Hz, 0.5H), 3.77-3.39 (m, 2H), 3.31-3.13 (m, 1H), 2.94 (d, J=19.5 Hz, 0.5H), 2.64-2.54 (m, 0.5H), 2.47-2.39 (m, 0.5H), 2.28 (dd, J=7.3, 16.7 Hz, 2H), 2.17-1.88 (m, 1H), 1.80-1.47 (m, 2H), 0.81-0.61 (m, 4H).

reactant | 2-[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetohydrazide | 3.31 mmol, 700 mg | C1(CC1)C(=O)N1C[C@@H](CC1)CC(=O)NN | C10H17N3O2
reactant | 4-bromo-2-chloro-1-isocyanatobenzene | 3.31 mmol, 770 mg | BrC1=CC(=C(C=C1)N=C=O)Cl | C7H3BrClNO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | hexane | 15 mL | CCCCCC | C6H14
product | N-(4-bromo-2-chlorophenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 2.93 mmol, 1.3 g, 88% yield | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)Cl | C17H20BrClN4O3
